US07547717B2
A mixture 5-(4-fluorophenyl)-1-p-tolyl-1H-imidazole-2-thiol (1 eq) in dioxane is stirred and Triton B is added. The mixture is heated to 70° C. and acrylonitrile (1 eq) is added and heated for 3 hours. The cooled mixture is partitioned between aqueous 0.1N HCl and ethyl acetate. The organic layer is washed with water and brine, dried over sodium sulfate, filtered and the solvent removed under reduce pressure. Flash chromatography (SiO2) gives 3-(5-(4-fluorophenyl)-1,2-dihydro-2-thioxo-1-p-tolylimidazol-3-yl)propanenitrile.

reactant | 5-(4-fluorophenyl)-1-p-tolyl-1H-imidazole-2-thiol | 1 eq | FC1=CC=C(C=C1)C1=CN=C(N1C1=CC=C(C=C1)C)S | C16H13FN2S
reactant | acrylonitrile | 1 eq | C(C=C)#N | C3H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(5-(4-fluorophenyl)-1,2-dihydro-2-thioxo-1-p-tolylimidazol-3-yl)propanenitrile | FC1=CC=C(C=C1)C1=CN(C(N1C1=CC=C(C=C1)C)=S)CCC#N | C19H16FN3S
